US03956260
3. Z-Val-Leu-OMe
19.9 g (110 mmols) of H-Leu-OMe. HCl are dissolved in 120 ml of dimethylformamide and 14.6 ml (105 mmols) of triethylamine are added at 0°C. The precipitated triethylamine hydrochloride is filtered off, the filtrate is added to a solution of 25.1 g (100 mmols) of Z-Val-OH in 200 ml of dimethylformamide (0°C), and 22.6 g (110 mmols) of dry dicyclohexylcarbodiimide are then added. After 1 hour's stirring at 0°C and standing overnight in the refrigerator the mixture is filtered and the solution evaporated in a high vacuum at 40°C. The oily residue is taken up in 30 ml of ethyl acetate, and the solution is cooled to 0°C and freed of precipitated dicyclohexylurea. After adding n-hexane the product crystallises out from the filtrate overnight. Melting point 102°-105°C; [α]D : -41° (c = 2.88 in methanol).

reactant | H-Leu-OMe. HCl | 110 mmols, 19.9 g | CC(C)C[C@@H](C(=O)OC)N.Cl
reactant | triethylamine | 105 mmols, 14.6 ml | C(C)N(CC)CC | C6H15N
reactant | Z-Val-OH | 100 mmols, 25.1 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | dicyclohexylcarbodiimide | 110 mmols, 22.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Z-Val-Leu-OMe | N([C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C20H30N2O5
